US07691882B2
5-Bromo-2-phenoxy-pyridine
To a solution of phenol (1.97 g, 20.9 mmol) in N,N-dimethylformamide (100 mL) was added sodium hydride (1.00 g, 20.9 mmol) at 0° C., which was stirred for 5 minutes at 0° C. 2,5-Dibromopyridine (4.50 g, 19.0 mmol) was then added to this reaction solution at 0° C., and stirred for 40 minutes at room temperature. The reaction solution was then stirred for further 3 hours at 120° C. After allowing to room temperature, the reaction solution was partitioned into water and ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=6:1) to obtain the title compound (3.85 g, 81%).

reactant | phenol | 20.9 mmol, 1.97 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 20.9 mmol, 1.00 g | [H-].[Na+]
reactant | 2,5-Dibromopyridine | 19.0 mmol, 4.50 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-2-phenoxy-pyridine | 3.85 g, 81% | BrC=1C=CC(=NC1)OC1=CC=CC=C1 | C11H8BrNO
